US08039503B2
E44.6. Synthesis of tert-butyl (5′,6′-dioxo-5′,6′-dihydrospiro[cyclohexane-1,2′-naphtho[1,2-b][1,4]oxathiin]-4-yl)carbamate (Compound 267)
The crude tert-butyl [4-hydroxy-4-(mercaptomethyl)cyclohexyl]carbamate was reacted with naphthalene-1,2-dione as outlined in procedure G [both step (i) (ii) and (iii)] to afford crude tert-butyl (5′,6′-dioxo-5′,6′-dihydrospiro[cyclohexane-1,2′-naphtho[1,2-b][1,4]oxathiin]-4-yl)carbamate. The crude product was purified by flash column chromatography (SiO2, 100% dichloromethane) to afford the product as a purple solid. M.p.=224-225° C.; 400 MHz 1H NMR (DMSO-d6) δ: 7.90 (dd, J=7.6 Hz, 0.8 Hz, 1H), 7.83 (d, J=6.8 Hz, 1H), 7.75 (td, J=7.6 Hz, 1.2 Hz, 1H), 6.92 (d, J=8.4 Hz, 1H), 3.34 (br, 1H), 3.02 (s, 2H), 2.05 (d, J=10.8 Hz, 2H), 1.76-1.53 (m, 6H), 1.39 (s, 9H); LCMS: 416 [M+H].

reactant | tert-butyl [4-hydroxy-4-(mercaptomethyl)cyclohexyl]carbamate | OC1(CCC(CC1)NC(OC(C)(C)C)=O)CS | C12H23NO3S
reactant | naphthalene-1,2-dione | C1(C(C=CC2=CC=CC=C12)=O)=O | C10H6O2
product | tert-butyl (5′,6′-dioxo-5′,6′-dihydrospiro[cyclohexane-1,2′-naphtho[1,2-b][1,4]oxathiin]-4-yl)carbamate | O=C1C(C2=CC=CC=C2C=2OC3(CSC21)CCC(CC3)NC(OC(C)(C)C)=O)=O | C22H25NO5S
